US04853389
Step (4) Preparation of 2-(Dimethylamino)-N-[[(1-methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide
Pentane washed sodium hydride (22.0 mmol, 2.05 eq) was suspended in THF (100 mL) and 2-(dimethylamino)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide (3.72 g, 10.74 mmol) was added as a powder over a 30 minute period. After 90 minutes the solidified reaction was loosened by adding more THF (30 mL) followed by adding isopropyl isocyanate (1.09 mL, 11.06 mmole, 2.05 eq). After stirring 90 minutes a small portion of isopropyl isocyanate (150 mL) was added to complete the reaction. The THF was removed under reduced pressure and the residue was dissolved in warm water (100 mL). The pH was adjusted to 4 with acetic acid and the aqueous phase was extracted with four 150 mL portions of ethyl acetate. The organic portions were combined, dried (Na2SO4), decanted and the solvent removed to yield pale yellow crystals (4.11 g, 10.43 mmol, 97%). The crude material was crystallized once from ethanol/water to yield 3.45 g (8.76 mmol, 81%) of pure product, m.p. 178.5°-179° C.

reactant | Pentane | CCCCC | C5H12
reactant | sodium hydride | 22.0 mmol, 2.05 eq | [H-].[Na+]
reactant | 2-(dimethylamino)-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 10.74 mmol, 3.72 g | CN(C1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)N)C | C13H17N5O2S
reactant | isopropyl isocyanate | 11.06 mmole, 1.09 mL, 2.05 eq | C(C)(C)N=C=O | C4H7NO
reactant | isopropyl isocyanate | 150 mL | C(C)(C)N=C=O | C4H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(Dimethylamino)-N-[[(1-methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-5-pyrimidinesulfonamide | 10.43 mmol, 4.11 g, 97% | CN(C1=NC=C(C(=N1)NC1=CC(=CC=C1)C)S(=O)(=O)NC(=O)NC(C)C)C | C17H24N6O3S
